current_source_t_network - fault test
I1 0 a DC 0.005
C_s a b 1.88e-06
R_p b 0 1015.005112
R_L b c 1511.007026
R_leak c 0 10000731.097064
.op
.control
run
print v(a) v(b) v(c)
print @r_p[i] @r_l[i] @r_leak[i]
print @i1[i]
.endc
.end
